US07553969B1
A mixture of Z-N-Me-Val-N-Me-Tyr(3-t-Bu)-NHSO2Me (0.65 g, 1.13 mmol) and 20% palladium hydroxide/carbon (0.09 g) in methanol (10 ml) was stirred at room temperature for 2.5 hours in a hydrogen atmosphere. The reaction mixture was filtered and the filtrate was evaporated to remove the solvent under reduced pressure, giving crude N-Me-Val-N-Me-Tyr(3-t-Bu)-NHSO2Me (0.50 g).

reactant | Z-N-Me-Val-N-Me-Tyr(3-t-Bu)-NHSO2Me | 1.13 mmol, 0.65 g | C(=O)(OCC1=CC=CC=C1)N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)NS(=O)(=O)C)C)C | C29H41N3O7S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium hydroxide/carbon | 0.09 g | [OH-].[OH-].[Pd+2]
product | N-Me-Val-N-Me-Tyr(3-t-Bu)-NHSO2Me | 0.50 g | N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)NS(=O)(=O)C)C)C | C21H35N3O5S
